US08389720B2
(4,4-difluoropiperidin-1-yl)(phenyl)acetonitrile
Benzaldehyde (1.284 ml, 12.63 mmol), 4,4-difluoropiperidine (1.53 g, 12.63 mmol), and NaCN (0.619 g, 12.63 mmol) were combined in MeOH (20 ml). Acetic acid (0.759 ml, 13.26 mmol) was added dropwise over 30 min via syringe pump and the mixture heated to reflux for 2 hours. The reaction mixture was cooled to room temperature and concentrated in vacuo. The residue was partitioned between water and CH2Cl2, the aqueous portion extracted 2×CH2Cl2, and the organic portion dried (Na2SO4) and concentrated in vacuo. The resulting material was used without further purification.

reactant | Benzaldehyde | 12.63 mmol, 1.284 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4,4-difluoropiperidine | 12.63 mmol, 1.53 g | FC1(CCNCC1)F | C5H9F2N
reactant | NaCN | 12.63 mmol, 0.619 g | [C-]#N.[Na+]
reactant | Acetic acid | 13.26 mmol, 0.759 ml | C(C)(=O)O | C2H4O2
solvent | MeOH | 20 ml | CO | CH4O
product | (4,4-difluoropiperidin-1-yl)(phenyl)acetonitrile | FC1(CCN(CC1)C(C#N)C1=CC=CC=C1)F | C13H14F2N2
